US07595320B2
27 mg (74 μmol) of tetrabutylammonium iodide and then 75 μL (1.11 mmol) of azetidine are added to a solution of 200 mg (0.37 mmol) of an approximately 70:30 mixture of tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-thieno[2,3-c]pyrazole-1-carboxylate in 6 mL of dimethylformamide under argon. The reaction mixture is stirred at a temperature in the region of 25° C. for 16 hours, and then poured onto ice. It is then extracted twice with a 50/50 mixture of ethyl acetate and heptane. The organic extracts are combined, dried over magnesium sulfate and then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is dissolved in 4 mL of methanol and the solution is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for 30 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (conditions B). 3 mg of 4-azetidin-1-ylmethyl-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide are thus obtained in the form of a yellow powder melting from 155 to 160° C. LC-MS-DAD-ELSD: 461(+)=(M+H)(+).

reactant | azetidine | 1.11 mmol, 75 μL | N1CCC1 | C3H7N
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C26H26ClN5O4S
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C)C3=CC=C(C=C3)Cl)C=C1 | C26H25Cl2N5O4S
catalyst | tetrabutylammonium iodide | 74 μmol, 27 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-azetidin-1-ylmethyl-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide | 3 mg | N1(CCC1)CC1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C24H24N6O2S
